US07709481B2
1.44 g [4-(3-Benzyloxy-propyl)-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-methanol were dissolved in 15 ml dimethylformamide. 231 mg sodium hydride (95%) were added and the reaction mixture stirred at room temperature. After thirty minutes 549 mg 2-chloro-4-fluorobenzonitrile were added and the reaction mixture stirred at room temperature for one hour. Then the reaction was quenched by the addition of 20 ml water and extracted three times with portions of 50 ml methyltertbutylether. The combined organic phases were dried over MgSO4. The solvent was removed in vacuo. The resulting residue was purified by reversed phase HPLC to obtain 641 mg 4-[4-(3-Benzyloxy-propyl)-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-ylmethoxy]-2-chloro-benzonitrile as yellow lyophilisate.

reactant | [4-(3-Benzyloxy-propyl)-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-methanol | 1.44 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1CO)C=1C=NC(=CC1)C(F)(F)F | C20H19F3N2O2S
reactant | sodium hydride | 231 mg | [H-].[Na+]
reactant | 2-chloro-4-fluorobenzonitrile | 549 mg | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-[4-(3-Benzyloxy-propyl)-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-ylmethoxy]-2-chloro-benzonitrile | 641 mg | C(C1=CC=CC=C1)OCCCC=1N=C(SC1COC1=CC(=C(C#N)C=C1)Cl)C=1C=NC(=CC1)C(F)(F)F | C27H21ClF3N3O2S
